US07285563B2
Methyl 5-nitroisoquinoline-1-carboxylate
Potassium carbonate (23 g, 167 mmol) was added to a solution of 5-nitro-isoquinoline-1-carboxylic acid (Description 104, 2.7 g, 12.4 mmol) in N,N-dimethylformamide (50 ml) at room temperature. Iodomethane (1.0 ml, 16.1 mmol) was then added and the reaction stirred at room temperature for 20 h. Water (300 ml) was added and the mixture was extracted with ethyl acetate (2×200 ml). The combined organic phases were washed with water (2×100 ml), brine (100 ml) then dried (Na2SO4) and evaporated. Purification of the residue by column chromatography eluting with ethyl acetate-isohexane (7:13 increasing to 1:1) gave the title compound (558 mg, 19%).

reactant | Potassium carbonate | 167 mmol, 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-nitro-isoquinoline-1-carboxylic acid | 12.4 mmol, 2.7 g | [N+](=O)([O-])C1=C2C=CN=C(C2=CC=C1)C(=O)O | C10H6N2O4
reactant | Iodomethane | 16.1 mmol, 1.0 ml | IC | CH3I
reactant | Water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 5-nitroisoquinoline-1-carboxylate | 558 mg, 19% | [N+](=O)([O-])C1=C2C=CN=C(C2=CC=C1)C(=O)OC | C11H8N2O4
